US05149642
1-Decanoyl-2-docosanoyl-3-octanoyl rac-glycerol is prepared from 1-decanoyl-2-docosanoyl rac-glycerol (7.9 mmole, 4.5 g) and octanoic anhydride (7.9 mmole, 2.14 g) analogously to Example V with the yield 4.1 g (75).

reactant | 1-decanoyl-2-docosanoyl rac-glycerol | 7.9 mmole, 4.5 g | C(CCCCCCCCC)(=O)OCC(OC(CCCCCCCCCCCCCCCCCCCCC)=O)CO | C35H68O5
reactant | octanoic anhydride | 7.9 mmole, 2.14 g | C(CCCCCCC)(=O)OC(CCCCCCC)=O | C16H30O3
product | 1-Decanoyl-2-docosanoyl-3-octanoyl rac-glycerol | C(CCCCCCCCC)(=O)OCC(OC(CCCCCCCCCCCCCCCCCCCCC)=O)COC(CCCCCCC)=O | C43H82O6
